// Generated for: spectre
// Generated on: Oct  7 13:54:23 2021
// Design library name: MultiChannel_EMG_TestBench
// Design cell name: PseudoResistor_TB
// Design view name: schematic
simulator lang=spectre
global 0
parameters Lp2=2u Wp2=10u deltaV=0 Lp=2u VA=900m Wp=3u
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=wp
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=wp
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=wz
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=wp

// Library name: MultiChannel_EMG_TestBench
// Cell name: PseudoResistor_TB
// View name: schematic
M11 (net015 net015 net011 net015) pel w=Wp2 l=Lp2 as=4.8e-07*(Wp2) \
        ad=4.8e-07*(Wp2) ps=1*2*(4.8e-07+(Wp2)) pd=2*(4.8e-07+(Wp2)) \
        nrs=2.7e-07/(Wp2) nrd=2.7e-07/(Wp2) m=(1)*(1) par1=((1)*(1))
M10 (net015 net015 net014 net015) pel w=Wp2 l=Lp2 as=4.8e-07*(Wp2) \
        ad=4.8e-07*(Wp2) ps=1*2*(4.8e-07+(Wp2)) pd=2*(4.8e-07+(Wp2)) \
        nrs=2.7e-07/(Wp2) nrd=2.7e-07/(Wp2) m=(1)*(1) par1=((1)*(1))
M7 (net09 net09 net018 net09) pel w=Wp2 l=Lp2 as=4.8e-07*(Wp2) \
        ad=4.8e-07*(Wp2) ps=1*2*(4.8e-07+(Wp2)) pd=2*(4.8e-07+(Wp2)) \
        nrs=2.7e-07/(Wp2) nrd=2.7e-07/(Wp2) m=(1)*(1) par1=((1)*(1))
M6 (net027 net027 net020 net027) pel w=Wp2 l=Lp2 as=4.8e-07*(Wp2) \
        ad=4.8e-07*(Wp2) ps=1*2*(4.8e-07+(Wp2)) pd=2*(4.8e-07+(Wp2)) \
        nrs=2.7e-07/(Wp2) nrd=2.7e-07/(Wp2) m=(1)*(1) par1=((1)*(1))
M5 (net08 net08 net027 net027) pel w=Wp l=Lp as=4.8e-07*(Wp) \
        ad=4.8e-07*(Wp) ps=1*2*(4.8e-07+(Wp)) pd=2*(4.8e-07+(Wp)) \
        nrs=2.7e-07/(Wp) nrd=2.7e-07/(Wp) m=(1)*(1) par1=((1)*(1))
M4 (net08 net08 net09 net09) pel w=Wp l=Lp as=4.8e-07*(Wp) ad=4.8e-07*(Wp) \
        ps=1*2*(4.8e-07+(Wp)) pd=2*(4.8e-07+(Wp)) nrs=2.7e-07/(Wp) \
        nrd=2.7e-07/(Wp) m=(1)*(1) par1=((1)*(1))
M1 (net6 net6 net01 net01) pel w=Wp l=Lp as=4.8e-07*(Wp) ad=4.8e-07*(Wp) \
        ps=1*2*(4.8e-07+(Wp)) pd=2*(4.8e-07+(Wp)) nrs=2.7e-07/(Wp) \
        nrd=2.7e-07/(Wp) m=(1)*(1) par1=((1)*(1))
M0 (net6 net6 net04 net04) pel w=Wp l=Lp as=4.8e-07*(Wp) ad=4.8e-07*(Wp) \
        ps=1*2*(4.8e-07+(Wp)) pd=2*(4.8e-07+(Wp)) nrs=2.7e-07/(Wp) \
        nrd=2.7e-07/(Wp) m=(1)*(1) par1=((1)*(1))
V6 (net018 0) vsource dc=VA type=dc
V5 (net029 0) vsource dc=VA+deltaV type=dc
V4 (net011 0) vsource dc=VA type=dc
V3 (net07 0) vsource dc=VA+deltaV type=dc
V1 (net04 0) vsource dc=VA type=dc
V0 (net05 0) vsource dc=VA+deltaV type=dc
IPRB2 (net029 net020) iprobe
IPRB1 (net07 net014) iprobe
IPRB0 (net05 net01) iprobe
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=deltaV start=-400m stop=400m oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save IPRB0:in IPRB2:in IPRB1:in 
saveOptions options save=allpub
